US07994203B2
To a stirred suspension of copper (II) bromide (499 mg, 2.23 mmol, 2 eq.) in EtOAc is added HBr (33% in acetic acid, 0.368 ml, 2.25 mmol, 2 eq.) followed by 1-(6-methoxy-4-methyl-pyridin-3-yl)-propan-1-ol (200 mg, 1.12 mmol, 1 eq.). The mixture is heated at 70° C. for 12 hrs. After cooling to RT the mixture is poured into 2M Na2CO3 (50 ml) and extracted with EtOAc (2×50 ml). The combined extracts are washed successively with 2M Na2CO3, water and brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The resulting crude residue is purified by column chromatography on silica gel eluting with 10% EtOAc/iso-hexane to yield 2-bromo-1-(6-methoxy-4-methyl-pyridin-3-yl)-propan-1-one as a clear oil. MS: m/z 257.9 [M+H]+; 1H NMR (400 MHz, CDCl3) δ 1.90 (d, 3H), 2.50 (s, 3H), 4.0 (s, 3H), 2.33 (s, 3H), 5.20 (q, 1H), 6.65 (s, 1H), 8.65 (s, 1H).

reactant | HBr | 2.25 mmol, 0.368 ml, 2 eq. | Br | BrH
reactant | 1-(6-methoxy-4-methyl-pyridin-3-yl)-propan-1-ol | 1.12 mmol, 200 mg, 1 eq. | COC1=CC(=C(C=N1)C(CC)O)C | C10H15NO2
reactant | Na2CO3 | 2M, 50 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper (II) bromide | 2.23 mmol, 499 mg, 2 eq. | [Cu](Br)Br
product | 2-bromo-1-(6-methoxy-4-methyl-pyridin-3-yl)-propan-1-one | BrC(C(=O)C=1C=NC(=CC1C)OC)C | C10H12BrNO2
